US07071216B2
To 4-bromophenyl acetic acid (1 eq) in dichoromethane containing a drop of N,N-dimethyl formamide at 0° C. was added oxalyl chloride (1.2 eq). The resulting mixture was then brought to ambient temperature and stirred for 2 h. The mixture was concentrated and to it was added tetrahydrofuran and [4-(3,4-diaminophenoxy)(2-pyridyl)]-N-methylcarboxamide (1 eq) and triethyl amine (1 eq) and stirred for 2 h. Formation of the N-acylated product was followed by LC/MS. The mixture was concentrated and partitioned between ethyl acetate and water. The organic layer was dried with sodium sulfate and concentrated and taken in acetic acid and heated to 60° C. for 2 h. Preparative chromatography yielded [4-{2-[(4-bromophenyl)methyl]-1-methylbenzimidazol-5-yloxy}(2-pyridyl)]-N-methylcarboxamide. MS: MH+=451.

reactant | 4-bromophenyl acetic acid | 1 eq | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | oxalyl chloride | 1.2 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | [4-(3,4-diaminophenoxy)(2-pyridyl)]-N-methylcarboxamide | 1 eq | NC=1C=C(OC2=CC(=NC=C2)C(=O)NC)C=CC1N | C13H14N4O2
reactant | triethyl amine | 1 eq | C(C)N(CC)CC | C6H15N
solvent | dichoromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | N,N-dimethyl formamide | CN(C=O)C | C3H7NO
product | [4-{2-[(4-bromophenyl)methyl]-1-methylbenzimidazol-5-yloxy}(2-pyridyl)]-N-methylcarboxamide | BrC1=CC=C(C=C1)CC1=NC2=C(N1C)C=CC(=C2)OC2=CC(=NC=C2)C(=O)NC | C22H19BrN4O2
